US07355052B2
Stage 2: tert-butyl 3-(2-[(4-aminophenyl)amino]-6-{[bis(3-methylbutyl)amino]carbonyl}-1H-benzimidazol-1-yl)propylcarbamate
Tert-butyl 3-{6-{[bis(3-methylbutyl)amino]carbonyl}-2-[(4-nitrophenyl)amino]-1H-benzimidazol-1-yl}propylcarbamate (580 mg) in solution in a mixture of ethyl acetate/methanol 3:1 (40 ml), and 10% palladium on carbon (58 mg) are introduced into an autoclave. After stirring for 15 hours under a hydrogen atmosphere (3 bar) at a temperature of approximately 20° C., the catalyst is eliminated by filtration on celite and the filtrate is concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of a foam (480 mg; 87% yield).

reactant | Tert-butyl 3-{6-{[bis(3-methylbutyl)amino]carbonyl}-2-[(4-nitrophenyl)amino]-1H-benzimidazol-1-yl}propylcarbamate | 580 mg | CC(CCN(C(=O)C=1C=CC2=C(N(C(=N2)NC2=CC=C(C=C2)[N+](=O)[O-])CCCNC(OC(C)(C)C)=O)C1)CCC(C)C)C | C32H46N6O5
solvent | ethyl acetate methanol | 40 ml | C(C)(=O)OCC.CO
catalyst | palladium on carbon | 58 mg | [Pd] | Pd
product | tert-butyl 3-(2-[(4-aminophenyl)amino]-6-{[bis(3-methylbutyl)amino]carbonyl}-1H-benzimidazol-1-yl)propylcarbamate | 87% yield | NC1=CC=C(C=C1)NC1=NC2=C(N1CCCNC(OC(C)(C)C)=O)C=C(C=C2)C(=O)N(CCC(C)C)CCC(C)C | C32H48N6O3
